US04625047
To a stirred solution of sodium (0.836 g, 0.0363 mole) in ethanol (70 ml) and ethyl acetoacetate (4.73 g, 0.0363 mole) was added [2,3-dichloro-4-(1-oxo-2-butenyl)phenoxy]acetic acid (4.67 g, 0.0162 mole). The reaction mixture was heated at reflux for 3 hours then the solvent was distilled at reduced pressure. The residue was dissolved in water, acidified with hydrochloric acid, extracted with ether, washed with water, dried over magnesium sulfate and evaporated at reduced pressure to give 3.7 g of [2,3-dichloro-4-(5-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid which melted at 187°-190° C. after recrystallization from acetonitrile.

reactant | sodium | 0.0363 mole, 0.836 g | [Na] | Na
reactant | ethyl acetoacetate | 0.0363 mole, 4.73 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | [2,3-dichloro-4-(1-oxo-2-butenyl)phenoxy]acetic acid | 0.0162 mole, 4.67 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C=CC)=O | C12H10Cl2O4
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(5-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | 3.7 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(CC(C1)C)=O | C15H14Cl2O4
